US04200578
A solution of 2-[(2-guanidinothiazol-4-yl)methylthio]ethylamine (from the dihydrochloride, 20.0 g; 66.0 mmoles) [prepared according to the procedure described in South Africa Pat. No. 78/2129] and 1,1-bis(methylthio)-2-nitroethylene [prepared according to the procedure described in Chem. Ber., 100, 591 (1967) or Acta Chem. Scand., 21 2797 (1967)] (10.9 g; 66.0 mmoles) in isopropanol (600 ml) was stirred at ambient temperature under a positive pressure of nitrogen for 2 hours, at reflux temperature for 1 hour and then at ambient temperature for 54 hours. The reaction mixture was cooled and filtered to give 15.8 g of 1-nitro-2-methylthio-2-{2-[(2-guanidinothiazol-4-yl)methylthio]ethylamino}ethylene as a yellow solid, mp 151°-156°, which was used without further purification in Step B below.

reactant | 2-[(2-guanidinothiazol-4-yl)methylthio]ethylamine | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | 1,1-bis(methylthio)-2-nitroethylene | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
solvent | isopropanol | 600 ml | C(C)(C)O | C3H8O
product | 1-nitro-2-methylthio-2-{2-[(2-guanidinothiazol-4-yl)methylthio]ethylamino}ethylene | 15.8 g | [N+](=O)([O-])C=C(NCCSCC=1N=C(SC1)NC(=N)N)SC | C10H16N6O2S3
